US05958918
A. 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-benzylamide
The title compound is prepared as in EXAMPLE 126, Part A using 5-chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as in EXAMPLE 129, Part A, in place of 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide and benzyl bromide in place of MeI. The crude product is purified by column chromatography eluting with gradient of 40% EtOAc/hexanes to 50% EtOAc/hexanes to afford the title compound as a white solid.

reactant | 5-chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)=O | C19H16ClN3O3S3
reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-benzylamide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(S(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)CC2=CC=CC=C2)=O | C26H22ClN3O3S3
